* Schematics Netlist *



Q_Q1         $N_0002 $N_0001 $N_0003 BC548A 
Q_Q3         $N_0005 $N_0004 $N_0006 BC548A 
V_V1         $N_0007 0 18V
R_R1         $N_0001 $N_0007  43k  
R_R2         0 $N_0001  4.3k  
R_R3         $N_0002 $N_0007  1.8k  
R_R4         $N_0008 $N_0003  150  
R_R5         0 $N_0008  30  
R_R6         $N_0004 $N_0007  43k  
R_R7         0 $N_0004  4.3k  
R_R8         $N_0005 $N_0007  1.8k  
R_R9         $N_0009 $N_0006  30  
V_V2         $N_0010 0 DC 0 AC 18m
+SIN 0 18m 1800 0 0 0
C_C3         0 $N_0008  100u  
C_C5         0 $N_0009  100u  
R_R10         0 $N_0009  150  
R_Rn         $N_0011 0  1.9k  
R_Ro         $N_0012 $N_0010  80  
C_C1         $N_0001 $N_0012  510n  
C_C2         $N_0002 $N_0004  510n  
C_C4         $N_0005 $N_0011  510n  
