* Schematics Netlist *



V_V1         $N_0001 0 0V
V_V2         $N_0002 0 18V
Q_Q1         $N_0002 $N_0001 0 BC548A 
V_V4         $N_0003 0 18V
I_I1         0 $N_0004 DC 20uA  
Q_Q2         $N_0003 $N_0004 0 BC548A 
